US07482448B2
A solution of (S)-2-benzyloxycarbonylamino-4,4-difluoro-6-methyl-heptanoic acid methyl ester: (333 mg, 0.97 mmol) in methanol (10 mL) and 4 M HCl in dioxane (4 mmol, 1 mL) is hydrogenated over 10% Pd/C (150 mg) at 55 psi. After 7 hr, another portion of 10% Pd/C (200 mg) is added and the hydrogenation resumed. After 5.5 hr, the reaction did not progress. Catalyst is filtered and the filtrate is concentrated in vacuum and subjected to the hydrogenation conditions. After 6.5 hr, the catalyst is removed by filtration over a pad of Celite, and the filtrate is concentrated in vacuum to afford (S)-2-amino-4,4-difluoro-6-methyl-heptanoic acid methyl ester hydrochloride as a sticky solid (240 mg, quant.).

reactant | (S)-2-benzyloxycarbonylamino-4,4-difluoro-6-methyl-heptanoic acid methyl ester | COC([C@H](CC(CC(C)C)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C17H23F2NO4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (S)-2-amino-4,4-difluoro-6-methyl-heptanoic acid methyl ester hydrochloride | Cl.COC([C@H](CC(CC(C)C)(F)F)N)=O | InChI=1S/C9H17F2NO2.ClH/c1-6(2)4-9(10,11)5-7(12)8(13)14-3;/h6-7H,4-5,12H2,1-3H3;1H/t7-;/m0./s1
